US04120974
10 g. of p-ethylphenyl 3,4,7-trimethyl-2,6-nonadienyl ether are dissolved in 110 ml. of dichloromethane and treated portionwise at -10° C. with 7.8 g. of 80% m-chloroperbenzoic acid. After completion of the treatment, the mixture is stirred for a further 2 hours at 0° C., shaken out with 10% sodium sulfite solution, 1-N sodium hydroxide solution and water, dried over sodium sulfate and evaporated. There is obtained pure 6,7-epoxy-1-(p-ethylphenoxy)-3,4,7-trimethyl-2-nonene; NMR (CDCl3): 7.25-6.7 ppm (AB-quartet of the four aromatic protons); 5.5 ppm (a vinyl proton at C-2); 4.52 ppm doublet of the --O--CH2 group); 2.59 ppm (quartet of the aromatic-bound --CH2 group); 2.8-2.2 ppm (multiplet of the protons at C-4 and C-6); 1.65 ppm (wide singlet of the methyl group at C-3); 1.78-0.8 ppm (complicated multiplet of 19 protons).

reactant | p-ethylphenyl 3,4,7-trimethyl-2,6-nonadienyl ether | CC(=CCOC1=CC=C(C=C1)CC)C(CC=C(CC)C)C | C20H30O
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6,7-epoxy-1-(p-ethylphenoxy)-3,4,7-trimethyl-2-nonene | O1C(CC(C(=CCOC2=CC=C(C=C2)CC)C)C)C1(CC)C | C20H30O2
